US07601714B2
A mixture of the above benzoic acid trans-3-cyano-cyclohexyl ester (0.29 g, 1.3 mmol) and 0.5M NaOCH3 (0.13 mL, 0.065 mmol) in MeOH (1 mL) was stirred at room temperature for 12 h. The reaction mixture was concentrated in vacuo and the resulting residue was purified by silica gel column chromatography using 3:2 hexanes:EtOAc as an eluent to afford 0.12 g (78%) of trans-3-hydroxy-cyclohexanecarbonitrile as a colorless oil.

reactant | benzoic acid trans-3-cyano-cyclohexyl ester | 1.3 mmol, 0.29 g | C(#N)[C@@H]1C[C@H](CCC1)OC(C1=CC=CC=C1)=O | C14H15NO2
reactant | NaOCH3 | 0.065 mmol, 0.5M, 0.13 mL | O([Na])C
solvent | MeOH | 1 mL | CO | CH4O
product | trans-3-hydroxy-cyclohexanecarbonitrile | 0.12 g, 78% | O[C@@H]1C[C@H](CCC1)C#N | C7H11NO
